US07728005B2
Step 1: benzyl (3S)-2-oxotetrahydro-3-furanylcarbamate
To L-homoserine (2 g) were added sodium hydrogen carbonate (3.7 g) and water (30 ml), and the mixture was stirred at room temperature for 1 hr. To the reaction mixture were further added benzyl chloroformate (3.9 ml) and ether (10 ml), and the mixture was stirred at room temperature for 18 hrs. The reaction mixture was diluted with ethyl acetate and washed with 1N hydrochloric acid. The organic layer was dried over anhydrous sodium sulfate and the solvent was evaporated. The obtained crude product was purified by silica gel chromatography (ethyl acetate-hexane) to give the title compound (2.5 g).

reactant | L-homoserine | 2 g | N[C@@H](CCO)C(=O)O | C4H9NO3
reactant | sodium hydrogen carbonate | 3.7 g | C(O)([O-])=O.[Na+]
reactant | water | 30 ml | O | H2O
reactant | benzyl chloroformate | 3.9 ml | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ether | 10 ml | CCOCC | C4H10O
product | benzyl (3S)-2-oxotetrahydro-3-furanylcarbamate | 2.5 g | O=C1OCC[C@@H]1NC(OCC1=CC=CC=C1)=O | C12H13NO4
